US04342692
1-(3',4'-Dimethoxyphenyl)-7-(4'-fluorophenyl)-2-nitro-5-heptanone ethylene ketal
Into a 1 l. r.b. flask equipped with a Dean-Stark trap was placed 79 g (0.2 mole) of 1-(3',4'-dimethoxyphenyl)-7-(4'-fluorophenyl)-2-nitro-5-heptanone, 38 g p-toluenesulfonic acid, 120 ml ethylene glycol and 400 ml cyclohexane. The mixture was allowed to reflux overnight, then concentrated in vacuo. Dil NaHCO3 solution was added to the residue and extracted with methylene chloride. The organic layer was backwashed with water, dried over anh MgSO4, filtered and concentrated under reduced pressure to obtain 84.8 g of oily product.

reactant | 1-(3',4'-dimethoxyphenyl)-7-(4'-fluorophenyl)-2-nitro-5-heptanone | 0.2 mole, 79 g | COC=1C=C(C=CC1OC)CC(CCC(CCC1=CC=C(C=C1)F)=O)[N+](=O)[O-] | C21H24FNO5
reactant | p-toluenesulfonic acid | 38 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 120 ml | C(CO)O | C2H6O2
solvent | cyclohexane | 400 ml | C1CCCCC1 | C6H12
product | 1-(3',4'-Dimethoxyphenyl)-7-(4'-fluorophenyl)-2-nitro-5-heptanone ethylene ketal | 84.8 g | C1COC(CCC(CC2=CC(=C(C=C2)OC)OC)[N+](=O)[O-])(CCC2=CC=C(C=C2)F)O1 | C23H28FNO6
